US07504392B2
e) 1-(6-Ethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-2,2,2-trifluoro-ethanone
To a solution of 6-ethoxy-1,2,3,4-tetrahydro-isoquinoline (2.52 g, 14.2 mmol) and triethylamine (6 mL) in dichloromethane (50 mL) at 0° C. was added dropwise trifluoroacetic anhydride (2.4 mL, 17 mmol). The mixture was stirred at room temperature for 1 hour before washing with saturated sodium bicarbonate. The organic layer was removed, dried over sodium sulfate and evaporated to dryness. The resulting oil was purified by chromatography on silica, eluting with 10 to 30% ethyl acetate in hexane to yield the subtitled compound as a clear oil (2.50 g). MH+ 274. 1H NMR δ (CDCl3) 1.35-1.45 (3H, t), 2.84-2.95 (2H, m), 3.75-3.89 (2H, m), 3.96-4.10 (2H, q), 3.65-3.77 (2H, d), 3.65-3.83 (2H, m), 6.97-7.08 (1H, t).

reactant | 6-ethoxy-1,2,3,4-tetrahydro-isoquinoline | 14.2 mmol, 2.52 g | C(C)OC=1C=C2CCNCC2=CC1 | C11H15NO
reactant | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 17 mmol, 2.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(6-Ethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-2,2,2-trifluoro-ethanone | 2.50 g | C(C)OC=1C=C2CCN(CC2=CC1)C(C(F)(F)F)=O | C13H14F3NO2
